US06320051B1
d) 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-1H-quinolin-4-one dihydrochloride
2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-4-methoxyquinoline (78 mg, 0.18 mmol) in dioxane:concentrated aq. HCl 1:2 (7 ml) was heated at 80° C. for 18 h. Volatiles were evaporated in vacuo and the residue was triturated with CHCl3:tBuOMe 2:1 and filtered to give the title compound as a colourless solid, (30 mg, 34%). δH (CD3OD) 2.10-2.27 (m, 2H, CH2CH2CH2), ca. 3.27 (t, merged with MeOH peak, 2H, CH2CH2CH2), 3.67 (t, J=6.7, 2H, CH2CH2CH2), 4.29 (s, 2H, Ar—CH2—N), 6.39 (s, 1H, HCC═O), 7.47-7.56 (m, 2H, Ar—H), 7.60-7.72 (m, 2H, Ar—H), 7.78-7.90 (m, 2H, Ar—H); MS (ES+) 410 (MH+, 59%), 235 (100).

reactant | 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-4-methoxyquinoline | 0.18 mmol, 78 mg | ClC=1C=C(CNCCCNC2=NC3=CC=CC(=C3C(=C2)OC)Cl)C=CC1Cl | C20H20Cl3N3O
reactant | HCl | 7 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(3,4-Dichlorobenzylamino)prop-1-ylamino]-5-chloro-1H-quinolin-4-one dihydrochloride | 30 mg, 34% | Cl.Cl.ClC=1C=C(CNCCCNC=2NC3=CC=CC(=C3C(C2)=O)Cl)C=CC1Cl | InChI=1S/C19H18Cl3N3O.2ClH/c20-13-6-5-12(9-15(13)22)11-23-7-2-8-24-18-10-17(26)19-14(21)3-1-4-16(19)25-18;;/h1,3-6,9-10,23H,2,7-8,11H2,(H2,24,25,26);2*1H
